US07960425B2
Synthesis of 5-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic Acid 4-picolyamide
1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone (50 mg, 0.18 mmol) in dimethyl sulfoxide (0.88 mL) was heated with 5-hydrazinocarbonylthiophene-2-carboxylic acid 4-picolylamide prepared in Reference Synthetic Example 4 at 100° C. for 24 hours. The solvent was evaporated, and the residue was washed with water and chloroform to give 54 mg of the desired product (yield 56%).

reactant | 1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 0.18 mmol, 50 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic acid 4-picolylamide | N1=CC=C(C=C1)CNC(=O)C=1SC(=CC1)C(=O)NN | C12H12N4O2S
reactant | dimethyl sulfoxide | 0.88 mL | CS(=O)C | C2H6OS
product | 5-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic Acid | 54 mg, yield 56% | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC=C(S1)C(=O)O | C19H15F3N4O4S
